US08383648B2
DCC/DMAP Esterification Method
To a stirred solution of Tempol (1.72 g, 0.01 mmole), cyclopropanecarboxylic acid (0.946 g, 0.011 mmole), and DMAP (0.12, 0.001 mmole) in dichloromethane (25 ml) was added DCC (2.27 g, 0.11 mmole) and the mixture was stirred overnight at room temperature. The mixture was filtered over celite and the solution was evaporated under reduced pressure. The product was isolated by silica gel column chromatography using first hexane and then 10% ethyl acetate in hexane. Yield: 2.26 g (94.1). IR and NMR were consistent with the assigned structure.

reactant | Tempol | 0.01 mmole, 1.72 g | CC1(CC(CC(N1[O])(C)C)O)C | C9H18NO2
reactant | cyclopropanecarboxylic acid | 0.011 mmole, 0.946 g | C1(CC1)C(=O)O | C4H6O2
reactant | DCC | 0.11 mmole, 2.27 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | DMAP | 0.001 mmole | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | DCC DMAP | C1CCC(CC1)N=C=NC2CCCCC2.CN(C)C=1C=CN=CC1 | InChI=1S/C13H22N2.C7H10N2/c1-3-7-12(8-4-1)14-11-15-13-9-5-2-6-10-13;1-9(2)7-3-5-8-6-4-7/h12-13H,1-10H2;3-6H,1-2H3
